US08110585B2
ethyl 2-(2-methylimidazo[1,2-a]pyridin-5-yl)cyclopropanecarboxylate
To a suspension of 60% sodium hydride (1.10 g, 25.3 mmol) in dimethyl sulfoxide (50 mL) was added trimethylsulfoxonium iodide (5.56 g, 25.3 mmol) at 0° C., and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added a solution of ethyl (2E)-3-(2-methylimidazo[1,2-a]pyridin-5-yl)acrylate (4.85 g, 21.1 mmol) in dimethyl sulfoxide (100 mL) at 0° C., and the mixture was stirred at room temperature for 4 hr. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=33/67) to give the title compound (3.40 g, yield 66%).

reactant | sodium hydride | 25.3 mmol, 1.10 g | [H-].[Na+]
reactant | trimethylsulfoxonium iodide | 25.3 mmol, 5.56 g | [I-].C[S+](=O)(C)C
reactant | ethyl (2E)-3-(2-methylimidazo[1,2-a]pyridin-5-yl)acrylate | 21.1 mmol, 4.85 g | CC=1N=C2N(C(=CC=C2)/C=C/C(=O)OCC)C1 | C13H14N2O2
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
product | ethyl 2-(2-methylimidazo[1,2-a]pyridin-5-yl)cyclopropanecarboxylate | 3.40 g, yield 66% | CC=1N=C2N(C(=CC=C2)C2C(C2)C(=O)OCC)C1 | C14H16N2O2
